US07875645B2
3-Chloro-2-ethyl-6-fluoro-benzaldehyde was prepared from butyl-[1-(3-chloro-2-ethyl-6-fluoro-phenyl)-meth-(E)-ylidene]-amine by flash chromatography (silica gel, ethyl acetate/heptane gradient): yellow oil; 1H-NMR (CDCl3): 1.21 (3H, t, CH3), 3.16 (2H, q, CH2), 6.99 (1H, dd, ArH), 7.55 (1H, dd, ArH), 10.45 (1H, s, CH═O).

reactant | butyl-[1-(3-chloro-2-ethyl-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)Cl)CC | C13H17ClFN
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | 3-Chloro-2-ethyl-6-fluoro-benzaldehyde | ClC=1C(=C(C=O)C(=CC1)F)CC | C9H8ClFO
